*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Inc.
* Models developed and under copyright by:
* National Semiconductor, Inc.  
*
*/////////////////////////////////////////////////////////////////////
* Legal Notice: This material is intended for free software support.
* The file may be copied, and distributed; however, reselling the 
*  material is illegal
*
*////////////////////////////////////////////////////////////////////
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
* For Applications support, contact the Internet address:
*  amps-apps@galaxy.nsc.com
*/////////////////////////////////////////
*LMV331  Low Voltage General Purpose Comparator
* MODEL FORMAT: PSPICE
* Rev:  12/17/97 -- ABG 
*/////////////////////////////////////////
* Connections       non-inverting input
*                   |  inverting input
*                   |  |  positive power supply 
*                   |  |  |  negative power supply (ground)
*                   |  |  |  |  output 
*                   |  |  |  |  |
.SUBCKT  lmv331    3  2  8  4  1
* Features:
* 2.7V and 5V Single-Supply Operation
* Low Supply Current:  60uA at VCC=5V
* Input Common-mode Range Includes Ground
*/////////////////////////////////////////
**************************************
vos  2 13 dc 0.0063
iee  8 10 dc 5e-4
rc_q1  11 4 303.44
rc_q2  12 4 303.44
re_q1  10 6 200
re_q2  10 7 200
q1  11 3 6 mq1
q2  12 13 7 mq2
gsup  8 4 33 4 1
** Sets Icc
rsup  8 45 750000
dsup  45 4 mds
iis  4 33 dc -0.000446667
ris  33 4 1 TC=-0.000373134, 0
g1  4 25 12 11 10
rcl  25 4 10
dcl1  25 26 md0
dcl2  27 25 md0
vcl1  26 4 dc 9.4
vcl2  4 27 dc 9.4
g2  4 16 25 4 0.01
d3  16 18 md1
d4  17 16 md1
v1  18 4 dc 0
v2  4 17 dc 0
gb  4 20 12 11 100
rb  20 4 10
h1  22 4 poly(1) v1 0 748.395 -5483.95
h2  4 21 poly(1) v2 0 1211.03 -10110.3  
db1  20 22 mdb1
db2  21 20 mdb1
gt  4 30 20 4 1e-5
rt  30 4 100k
ct  30 4 4.18061e-12
gc  4 35 30 4 0.005172
rc  35 4 1k
go  4 40 35 4 -0.01
ro  4 40 10
eob  41 40 45 4 1
** Sets output Leakage
*rr  1 4 1meg
rr  1 4 3e9
co  40 4 1p
** Sets output Vsat
voe   42  4  dc  0.1
*voe  42 4 dc -0.0477
qo  1 41 42 mqo
.model mq1 pnp bf=9614.38 xtb=2.27169
.model mq2 pnp bf=10415.7 xtb=2.27169
.model md0 d is=1e-10 rs=0.01
.model md1 d is=1e-12
.model mdb1 d cjo=0.2e-12
.model mds d is=1e-16
.model mqo npn bf=100 rc=13.6145 isc=2.7e-09
+ br=10 nr=0.95 cjs=0.05p cje=0.01p
.ends lmv331

